Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Interview conducted in ___.
___ w HFpEF, CKD w FLC elevation, diverticulosis with GIB in 
past p/w BRBPR. On day PTA pt noted 4 episodes of loose stools 
with small amounts of blood. No fevers, chills, nausea, 
vomiting, other bleeding, abdominal pain. He has had an episode 
like this years ago, and his ___ later showed diverticulosis. 
He most recently (late ___ had ___ with diverticulosis and 
a polyp x2 which were removed (poor prep). He recently returned 
from ___ about a month ago and since then has been feeling 
a little dehydrated, and rarely orthostatic. He does not check 
his weight but says that his normal weight is about 215-220lbs, 
though he was lower when checked at cardiologist's office day 
PTA (see below). He denies CP/SOB/cough/rash/joint pain. 
He denies NSAID use, recent procedures/contrast, but he does 
endorse poor po of late since coming back to ___. 
12 pt ROS otherwise negative.

Of note, saw his cardiologist on ___, found to have Cr 2.0 
(higher than recent baseline of 1.4) so planned for holding 
diuretics x1d, 40mg po torsemide the next two days, then restart 
60mg po qd (all from his previous dose of 80mg). He also saw 
hematology on ___ for his chronic low level kappa/lambda ratio 
elevation, with plans for a BMBx in the near future. 

He presented to the ED, where vitals were 99.1 62 146/69 16 
96%RA. Exam showed scant red blood in the vault without masses 
or fissures and rectum was non-tender. His labs showed Cr at 2.0 
with BUN 86 and hct at baseline. K was 3.1. He was ordered for 
500cc NS (which he received) and 40K IV which had just started 
with his transfer to the floor (and which he has therefore 
received almost none of). 

 
Past Medical History:
HLD
DM A1c 6.9 recently
HTN
HFpEF
potential hypertrophic cardiomyopathy: no clear family history, 
evaluated to have low SCD risk
LBBB
etoh use, stopped about ___ years ago
diverticulosis episode of GIB
CKD: previously seen by ___, but has not yet returned; 
had a slightly elevated K/L ratio with mild K and L elevations; 
he has also had proteinuria (albumin primarily) with normal 
SPEP/UPEP/CBC/Ca/renal us/
obesity
glaucoma
colonic polyps: removed on colonoscopy ___, plan for ___ 
repeat given "fair prep"

 
Social History:
___
Family History:
no GI or kidney disorders
per chart, no SCD
 
Physical Exam:
98.1 134/62 62 18 96%RA wt 198.5lbs (standing, in patient gown)
pleasant, lying in bed, NAD
MMM, no oral lesions or enlarged tongue
RRR, II/VI HSM, JVP <7cm
CTAB
NABS, sntnd
wwp, trace ___
grossly oriented, fluent, ___ BUE/BLE, sensation intact to LT 
BUE/BLE
no rash
no foley

Exam on discharge
Vitals: 98.9 BP: 133/87 HR: 90 R: 18 O2: 95%RA
Weight 88.8 (195 lbs)
Gen: NAD, lying in bed in NAD
Eyes: EOMI, sclerae anicteric 
ENT: MMM, OP clear
___: RRR, no MRG, full pulses, no edema
Resp: normal effort, clear b/l on auscultation
GI: obese, distended, soft, NT, ND, BS+
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect

 
Pertinent Results:
___ 10:23PM   ___ PTT-26.1 ___
___ 07:05PM   GLUCOSE-203* UREA N-86* CREAT-2.0* SODIUM-140 
POTASSIUM-3.1* CHLORIDE-90* TOTAL CO2-35* ANION GAP-18
___ 07:05PM   WBC-8.0 RBC-5.07 HGB-12.9* HCT-41.1 MCV-81* 
MCH-25.4* MCHC-31.4* RDW-18.9* RDWSD-54.5*
___ 07:05PM   NEUTS-52 BANDS-0 ___ MONOS-9 EOS-0 
BASOS-0 ATYPS-6* ___ MYELOS-0 AbsNeut-4.16 AbsLymp-3.12 
AbsMono-0.72 AbsEos-0.00* AbsBaso-0.00*

Labs from clinic day prior
___ 03:25PM URINE  U-PEP-NO PROTEIN
___ 01:10PM   UREA N-90* CREAT-2.0*
___ 01:10PM   ALT(SGPT)-13 AST(SGOT)-18 LD(LDH)-152 TOT 
BILI-0.4
___ 01:10PM   TOT PROT-7.9 ALBUMIN-4.1 GLOBULIN-3.8 
CALCIUM-10.3
___ 01:10PM   ___ *
___ 01:10PM   RHEU FACT-<10
___ 01:10PM   PEP-NO SPECIFI
___ 01:10PM   C3-126 C4-33
___ 01:10PM   WBC-7.2 RBC-5.32 HGB-13.7 HCT-43.6 MCV-82 
MCH-25.8* MCHC-31.4* RDW-18.9* RDWSD-55.2*
___ 01:10PM   NEUTS-39.9 ___ MONOS-13.0 EOS-1.7 
BASOS-0.6 IM ___ AbsNeut-2.90 AbsLymp-3.22 AbsMono-0.94* 
AbsEos-0.12 AbsBaso-0.04

Labs on discharge:

___ 06:15AM BLOOD WBC-7.6 RBC-3.65* Hgb-9.4* Hct-29.7* 
MCV-81* MCH-25.8* MCHC-31.6* RDW-18.7* RDWSD-55.3* Plt ___
___ 06:15AM BLOOD Glucose-125* UreaN-25* Creat-1.3* Na-140 
K-4.0 Cl-99 HCO3-34* AnGap-___ w HFpEF, CKD (baseline cr 1.4), DM, HTN and elevated K/L 
ratio, diverticulosis p/w BRBPR and acute renal failure.

# Gastrointestinal bleeding
# Anemia, acute blood loss
The patient presented with BRPBR. He was hemodynamically stable, 
with negative orthostatics.  Last ___ ___ with diverticulosis 
and polyp (poor prep) but otherwise unremarkable. The patient's 
subsequent HCT dropped to 28 but remained stable. He was seen by 
gastroenterology who recommended outpatient colonoscopy. 
Bleeding self resolved prior to discharge.

# Acute renal failre
# Stage 3 CKD: 
The patient presented with ___ with creatinine of 1.9. This was 
in most likely hypovolemic given aggressive diuretic regimen, 
progressive weight loss and lack of obvious volume overload. 
Diuretics were held and the patient was given 2L of IVF. His 
creatinine improved to 1.1 which is better than recent baseline. 
The patient's Torsemide was resumed at 60mg daily after 
discussion with his cardiologist. His lisinopril was also 
resumed and creatinine on discharge is 1.3. The patient should 
follow up with nephrology as an outpatient. 

#Foot pain
The patient complained of foot pain. He was seen by ___ who 
recommended home ___ and rolling walker. The patient was also 
started on low dose gabapentin at HS. 

# Chronic Diastolic CHF:
# Hypertension
#?HOCM
The patient has chronic diastolic CHF and presented with volume 
depletion and ___ in the setting of increased torsemide and 
metolazone as an outpatient. The patient was given gentle IVF as 
above. Once creatinine improved, he was resumed on Torsemide 
60mg daily.  Antihypertesives were held in setting of 
hypotension on admission but resumed in hospital prior to 
discharge. The patient's Atenolol was changed to Metoprolol 
given reduced renal function. Weight on discharge 88.8kgs.

# Elevated Free light ___/ Kappa:Lamda ratio: 
Followed by hematology who have resent levels and a further 
rheum w/u to r/o autoimmune phenomena. Planning for a BMBx as an 
outpatient. Has outpatient follow up scheduled.

#Glaucoma
Continue home eyedrops

# DM: 
Well controlled. Resumed home medications on discharge

Transitional issues:
- Atenolol changed to metoprolol
- Torsemide dose: 60mg daily, discharge weight 88.8kgs
- Should have repeat Chem-7 on ___ with results sent to Dr. 
___
- ___ outpatient colonoscopy for evaluation of 
gastrointestinal bleeding
- Should follow up with nephrology, hematology and rheumatology
HCP: daughter ___ ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 100 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Doxazosin 1 mg PO HS 
4. Lisinopril 40 mg PO DAILY 
5. HydrALAZINE 25 mg PO TID 
6. GlyBURIDE 5 mg PO DAILY 
7. Torsemide 80 mg PO DAILY 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Doxazosin 1 mg PO HS 
3. HydrALAZINE 25 mg PO TID 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Lisinopril 40 mg PO DAILY 
6. Torsemide 60 mg PO DAILY 
7. Acetaminophen 1000 mg PO TID 
Do not take more than 4gm of acetaminophen in 24hrs 
8. Gabapentin 100 mg PO QHS 
RX *gabapentin 100 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0
9. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0
10. GlyBURIDE 5 mg PO DAILY 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. Vitamin D 1000 UNIT PO DAILY 
13. Outpatient Lab Work
Please check Chem-7 on ___ and fax results to Dr: ___: 
___
14. Rolling walker
Rolling walker
Diagnosis: Gait instability
Prognosis: Good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Gastrointestinal bleeding
Acute blood loss anemia
Acute renal failure
Chronic diastolic Congestive heart failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted with gastrointestinal bleeding which stopped 
without treatment. You were seen by the gastroenterologists who 
recommended you have an outpatient colonoscopy to search for a 
cause for your bleeding. You were also found to have worsening 
of your kidney function. This improved with intravenous fluids. 

You should continue Torsemide 60mg daily, weigh yourself daily 
and call your doctor if your weight increases by more than 3 
pounds. You will need follow up lab studies checked on ___.

Your Atenolol was stopped and was replaced with Metoprolol for 
your heart. You were also started on a medication for your foot 
pain.

Please follow up with your cardiologist, hematologist and 
gastroenterologist as scheduled.
 
Followup Instructions:
___